US08541588B2
5-Chloro-2,4-difluoro-N-(5-fluoropyridin-2-yl)-N-(methoxymethyl)benzenesulfonamide
5-Chloro-2,4-difluorobenzenesulfonyl chloride (1 g, 4 mmol) in dichloromethane (7.6 mL) was added portion-wise to a solution of 2-amino-5-fluoropyridine (498 mg, 4.44 mmol) in pyridine (7.6 mL, 94 mmol) cooled to 0° C. After addition was complete, the reaction mixture was warmed to room temperature. After 16 hours, the reaction mixture was diluted with dichloromethane and hydrochloric acid (1 N aqueous solution). The aqueous layer was extracted with dichloromethane. The combined organic layers were washed with water, diluted with ethyl acetate, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in dichloromethane (8.0 mL) and N,N-diisopropylethylamine (0.776 mL, 4.45 mmol) added. The mixture was cooled to 0° C. and chloromethyl methyl ether (0.338 mL, 4.45 mmol) was added dropwise by syringe. The reaction mixture was warmed to room temperature and after stirring for 6 hours, the reaction mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate solution. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo onto Celite™. The residue was purified by automated flash chromatography (24 g silica gel column) eluting with ethyl acetate:hexanes (gradient 0:1 to 1:0, by volume) to afford the title compound, 363 mg.

reactant | 5-Chloro-2,4-difluorobenzenesulfonyl chloride | 4 mmol, 1 g | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)F)F | C6H2Cl2F2O2S
reactant | 2-amino-5-fluoropyridine | 4.44 mmol, 498 mg | NC1=NC=C(C=C1)F | C5H5FN2
reactant | pyridine | 94 mmol, 7.6 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N-diisopropylethylamine | 4.45 mmol, 0.776 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 4.45 mmol, 0.338 mL | COCCl | C2H5ClO
solvent | dichloromethane | 7.6 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1 N | Cl | ClH
product | 5-Chloro-2,4-difluoro-N-(5-fluoropyridin-2-yl)-N-(methoxymethyl)benzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(COC)C1=NC=C(C=C1)F)F)F | C13H10ClF3N2O3S
